US06211234B1
A solution of (R)-4-[2-(5-ethoxycarbonylpyrazol-3-yl)-5-(3-pyridylmethoxy)phenoxy]-4-(2-methylphenyl)butanoic acid (150 mg) in methanol (50 mL) containing 10% w/v potassium hydroxide (5 mL) is stirred at reflux for 1 hour. The reaction mixture is partitioned between 1 N acetic acid (50 mL) and ethyl acetate (50 mL). Some precipitation occurred in the organic phase which is washed with water (50 mL) and concentrated under reduced pressure. Trituration with hot ethyl acetate followed by cooling affords a solid which is filtered then washed with ethyl acetate to give (R)-4-[2-(5-carboxypyrazol-3yl)-5-(3-pyridylmethoxy)phenoxy]-4-(2-methylphenyl) butanoic acid hydrate (40 mg) as a white solid, m.p. 144-146° C. [Elemental analysis:- C,64.1, H, 5.02, N, 8.27%. Calculated for C27H25N3O6.H2O:- C,64.2, H, 5.35, N, 8.32%].

reactant | (R)-4-[2-(5-ethoxycarbonylpyrazol-3-yl)-5-(3-pyridylmethoxy)phenoxy]-4-(2-methylphenyl)butanoic acid | 150 mg | C(C)OC(=O)C1=CC(=NN1)C1=C(O[C@H](CCC(=O)O)C2=C(C=CC=C2)C)C=C(C=C1)OCC=1C=NC=CC1 | C29H29N3O6
reactant | potassium hydroxide | 5 mL | [OH-].[K+]
solvent | methanol | 50 mL | CO | CH4O
product | (R)-4-[2-(5-carboxypyrazol-3yl)-5-(3-pyridylmethoxy)phenoxy]-4-(2-methylphenyl) butanoic acid hydrate | 40 mg | O.C(=O)(O)C1=CC(=NN1)C1=C(O[C@H](CCC(=O)O)C2=C(C=CC=C2)C)C=C(C=C1)OCC=1C=NC=CC1 | InChI=1S/C27H25N3O6.H2O/c1-17-5-2-3-7-20(17)24(10-11-26(31)32)36-25-13-19(35-16-18-6-4-12-28-15-18)8-9-21(25)22-14-23(27(33)34)30-29-22;/h2-9,12-15,24H,10-11,16H2,1H3,(H,29,30)(H,31,32)(H,33,34);1H2/t24-;/m1./s1
